US05100889
(5) 7,7-Dimethyloctanamide
To a stirred solution of 1.21 g (7.02 mmol) of Part A(4) compound in 50 mL of toluene was added 3 mL (134 mmol) of oxalyl chloride. The reaction mixture was stirred for 1 hour at room temperature under argon and then concentrated in vacuo. The residue was diluted with 20 mL of toluene and concentrated again. This was repeated to remove traces of oxalyl chloride. The residue of the crude acid chloride was stirred in 5 mL of methanol and then 1.17 mL (8.43 mmol) of triethylamine and 2 mL (9M, 18 mmol) of methanolic ammonia were added at room temperature under argon. After stirring for 16 hours, the reaction mixture was partitioned between 3 mL water and 20 mL ethyl acetate. The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate (20 mL). The combined organic layers were washed with brine then dried (magnesium sulfate) and concentrated in vacuo to obtain a semi-solid. The semi-solid was crystallized by trituration with hexane to obtain 0.5 g (42%) of title compound as a solid.

reactant | oxalyl chloride | 134 mmol, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 8.43 mmol, 1.17 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 18 mmol, 9M, 2 mL | N | H3N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7,7-Dimethyloctanamide | 0.5 g, 42% | CC(CCCCCC(=O)N)(C)C | C10H21NO
